US07582629B2
2-tert-Butyl-5-pheny 4-[(4-piperidin-1-ylphenyl)amino]isothiazol-3(2H)-one 1,1-dioxide
A solution of 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.150 g, 0.50 mmol) and 4-piperidinoaniline (0.176 g, 1.00 mmol) in DMF (2 mL) was heated at 120° C. for 15 mins in a microwave reactor. EtOAc was then added and the resulting mixture was washed with brine and evaporated. The residue was purified by silica gel column chromatography using a 9:1 mixture of petroleum ether and EtOAc as eluant, to give the title compound (0.110 g, 50%) as a solid; 1H NMR (500 MHz, CDCl3): δ 7.22-7.18 (m, 1H), 7.16-7.05 (m, 5H), 6.58 (d, 2H), 6.54 (d, 2H), 3.02 (t, 4H), 1.80 (s, 9H), 1.70-1.62 (m, 4H), 1.58-1.54 (m, 2H); 13C NMR (125 MHz, CDCl3): δ 160.3, 149.9, 131.3, 129.6, 128.8, 128.1, 127.8, 125.3, 123.5, 116.3, 109.4, 61.9, 51.1, 27.9, 25.7, 24.4; Mass Spectrum: M+H+ 440.

reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.50 mmol, 0.150 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 4-piperidinoaniline | 1.00 mmol, 0.176 g | N1(CCCCC1)C1=CC=C(N)C=C1 | C11H16N2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-tert-Butyl-5-pheny 4-[(4-piperidin-1-ylphenyl)amino]isothiazol-3(2H)-one 1,1-dioxide | 0.110 g, 50% | C(C)(C)(C)N1S(C(=C(C1=O)NC1=CC=C(C=C1)N1CCCCC1)C1=CC=CC=C1)(=O)=O | C24H29N3O3S
